US06559162B2
(ix) tert-Butyl (1S)-2-(4-Cyanophenoxy)-1-{[8-(methylamino)-3-azabicyclo[3.2.1]oct-3-yl]methyl}ethylcarbamate
A mixture of tert-butyl (1S)-2-{8-[benzyl(methyl)amino]-3-azabicyclo[3.2.1]oct-3-yl}-1-[(4-cyanophenoxy)methyl]ethylcarbamate (0.8 g, 1.6 mmol), 1 M HCl (0.8 mL) and MeOH (30 mL) was hydrogenated over 5% Pd/C. The reaction was stopped when the amount of H2 calculated for complete reaction had been consumed. The mixture was filtered through silica and the filtrate evaporated. The resulting crude product was purified on silica gel, eluting with DCM:ammoniacal methanol (9:1), to yield 0.4 g (61%) of the title compound.

reactant | tert-butyl (1S)-2-{8-[benzyl(methyl)amino]-3-azabicyclo[3.2.1]oct-3-yl}-1-[(4-cyanophenoxy)methyl]ethylcarbamate | 1.6 mmol, 0.8 g | C(C1=CC=CC=C1)N(C1C2CN(CC1CC2)C[C@@H](COC2=CC=C(C=C2)C#N)NC(OC(C)(C)C)=O)C | C30H40N4O3
reactant | HCl | 1 M, 0.8 mL | Cl | ClH
catalyst | Pd/C | [Pd] | Pd
solvent | MeOH | 30 mL | CO | CH4O
product | tert-Butyl (1S)-2-(4-Cyanophenoxy)-1-{[8-(methylamino)-3-azabicyclo[3.2.1]oct-3-yl]methyl}ethylcarbamate | 0.4 g, 61% | C(#N)C1=CC=C(OC[C@H](CN2CC3CCC(C2)C3NC)NC(OC(C)(C)C)=O)C=C1 | C23H34N4O3
